US06995263B2
c] 3-Dimethylamino-1-(4-trifluoromethyl-phenyl)-propan-1-one hydrochloride
4-(Trifluoromethyl) acetophenone (4.97 g, 26.4 mmol), paraformaldehyde (1.586 g, 2 eq.), dimethylamine hydrochloride (3.23 g, 1.5 eq.) were mixed together in 7 ml of EtOH, treated with 0.08 ml of 37% HCl, and heated to reflux for 5 h. Cooling down to ambient temperature, filtration and washing with tiny amounts of cold EtOH delivered 4.59 g of the title compound as white crystals, mp. 128–142° C. (dec.).

reactant | 4-(Trifluoromethyl) acetophenone | 26.4 mmol, 4.97 g | CC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H7F3O
reactant | paraformaldehyde | 1.586 g, 2 eq. | C=O | CH2O
reactant | dimethylamine hydrochloride | 3.23 g, 1.5 eq. | Cl.CNC
reactant | HCl | 0.08 ml | Cl | ClH
solvent | EtOH | 7 ml | CCO | C2H6O
product | 3-Dimethylamino-1-(4-trifluoromethyl-phenyl)-propan-1-one hydrochloride | Cl.CN(CCC(=O)C1=CC=C(C=C1)C(F)(F)F)C | InChI=1S/C12H14F3NO.ClH/c1-16(2)8-7-11(17)9-3-5-10(6-4-9)12(13,14)15;/h3-6H,7-8H2,1-2H3;1H
